US05882628
a. 3,5-Dinitrophenylethanol
3,5-Dinitroacetophenone (3.27 g, 0.0156 mol) was dissolved in a mixture of absolute ethanol (75 ml) and THF (37.5 ml) and the mixture was cooled to -10° C. NaBH4 (0.30 g, 7.9 mmol) was added and the mixture was stirred for 1 h at -10° C. Water (80 ml) and ethyl acetate were added, the phases were separated and the organic phase was washed with water (80 ml) and dried (Na2SO4). The solvents were removed by evaporation and the residue was purified by chromatography on neutral alumina using a is mixture of pentane and ethyl acetate (1:1) as the eluent. Yield: 2.52 g (76%).

reactant | 3,5-Dinitroacetophenone | 0.0156 mol, 3.27 g | CC(=O)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O5
reactant | NaBH4 | 7.9 mmol, 0.30 g | [BH4-].[Na+]
reactant | Water | 80 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | THF | 37.5 ml | C1CCOC1 | C4H8O
product | 3,5-Dinitrophenylethanol | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C(C)O | C8H8N2O5
